US08497274B2
(v) Production of N-{7-cyano-6-[4-fluoro-3-({[3-(trifluoromethyl)phenyl]acetyl}amino)phenoxy]-1,3-benzothiazol-2-yl}cyclopropanecarboxamide
To a solution of N-{5-[(2-amino-7-cyano-1,3-benzothiazol-6-yl)oxy]-2-fluorophenyl}-2-[3-(trifluoromethyl)phenyl]acetamide (980 mg, 2.01 mmol) in N,N-dimethylacetamide (8 mL) were added pyridine (242 μL, 3.02 mmol) and cyclopropanecarbonyl chloride (255 μL, 2.81 mmol), and the mixture was stirred at room temperature for 2 hr. Cyclopropanecarbonyl chloride (255 μL, 2.81 mmol) was added to the reaction mixture, and the mixture was further stirred at room temperature for 2 hr. Water (20 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate (20 mL). The organic layer was washed successively with saturated aqueous sodium hydrogen carbonate solution (20 mL) and saturated brine (20 mL), and dried over anhydrous magnesium sulfate. Insoluble material was filtered off, the filtrate was purified by basic silica gel column chromatography (eluate: ethyl acetate), and the obtained solution was concentrated under reduced pressure. A pale-brown oil residue was crystallized from ethanol/water (1/1) to give the title compound (1.06 g, 95%) as a white powder.

reactant | N-{5-[(2-amino-7-cyano-1,3-benzothiazol-6-yl)oxy]-2-fluorophenyl}-2-[3-(trifluoromethyl)phenyl]acetamide | 2.01 mmol, 980 mg | NC=1SC2=C(N1)C=CC(=C2C#N)OC=2C=CC(=C(C2)NC(CC2=CC(=CC=C2)C(F)(F)F)=O)F | C23H14F4N4O2S
reactant | pyridine | 3.02 mmol, 242 μL | N1=CC=CC=C1 | C5H5N
reactant | cyclopropanecarbonyl chloride | 2.81 mmol, 255 μL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | Cyclopropanecarbonyl chloride | 2.81 mmol, 255 μL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | Water | 20 mL | O | H2O
solvent | N,N-dimethylacetamide | 8 mL | CN(C(C)=O)C | C4H9NO
product | N-{7-cyano-6-[4-fluoro-3-({[3-(trifluoromethyl)phenyl]acetyl}amino)phenoxy]-1,3-benzothiazol-2-yl}cyclopropanecarboxamide | 1.06 g, 95% | C(#N)C1=C(C=CC=2N=C(SC21)NC(=O)C2CC2)OC2=CC(=C(C=C2)F)NC(CC2=CC(=CC=C2)C(F)(F)F)=O | C27H18F4N4O3S
